US09023847B2
8. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (pyridin-3-ylmethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 3-(aminomethyl)pyridine instead of 1-BOC-3-aminopyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.54 (1H, br. s.) 10.28 (1H, s) 8.73 (1H, t, J=6.05 Hz) 8.55 (1H, d, J=1.76 Hz) 8.45 (1H, dd, J=4.78, 1.66 Hz) 8.02 (1H, d, J=5.47 Hz) 7.81 (1H, d, J=5.47 Hz) 7.67-7.74 (1H, m) 7.50 (1H, d, J=5.47 Hz) 7.28-7.38 (2H, m) 6.84 (1H, d, J=5.47 Hz) 6.42 (1H, dd, J=3.42, 1.85 Hz) 4.48 (2H, d, J=6.05 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H15N5OS
